US05747486
Sodium hydride (60% in oil, 0.158 g) was added to a solution of 1H-1,2,4-triazole (0.252 g) in N,N-dimethylformamide (DMF) (15 ml). The mixture was stirred for 15 minutes at room temperature, to which was added ethyl 6-chloromethyl-4-(4-chlorophenyl)-2,3-dimethylthieno[2,3-b]pyridine-5-carboxylate (1.2 g). The mixture was stirred for 35 minutes at 80° C. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), then the solvent was distilled off. The residue was subjected to column chromatography on silica gel. From the fraction eluted with dichloromethane-ethyl acetate (20:1, v/v), was obtained ethyl 4-(4-chlorophenyl)-2,3-dimethyl-6-(1,2,4-triazol-1-ylmethyl)thieno[2,3-b]pyridine-5-carboxylate (0.655 g, 50%). Recrystallization from ethanol gave colorless prisms, m.p.144°-145° C.

reactant | Sodium hydride | 0.158 g | [H-].[Na+]
reactant | 1H-1,2,4-triazole | 0.252 g | N1N=CN=C1 | C2H3N3
reactant | ethyl 6-chloromethyl-4-(4-chlorophenyl)-2,3-dimethylthieno[2,3-b]pyridine-5-carboxylate | 1.2 g | ClCC1=C(C(=C2C(=N1)SC(=C2C)C)C2=CC=C(C=C2)Cl)C(=O)OCC | C19H17Cl2NO2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(4-chlorophenyl)-2,3-dimethyl-6-(1,2,4-triazol-1-ylmethyl)thieno[2,3-b]pyridine-5-carboxylate | 0.655 g, 50% | ClC1=CC=C(C=C1)C1=C2C(=NC(=C1C(=O)OCC)CN1N=CN=C1)SC(=C2C)C | C21H19ClN4O2S
